US08357707B2
2-tert-Butyl-5-methoxymethoxy-pyridine
6.69 g (74.7 mmol) copper(I)cyanide in 15 ml dry THF was cooled to −75° C., where 149 ml (149 mmol) of a 1M tert-butylmagnesium chloride solution was added drop-wise. Stirring was continued for 40 min. After that, 4.07 g (18.67 mmol) 2-bromo-5-methoxymethoxy-pyridine (Zhong, W. et al. WO2008147547) dissolved in 30 ml dry THF were added drop-wise. The reaction mixture was stirred at −75° C. for 1 h and then allowed to reach room temperature, where stirring was continued for another 6 h. Then 30 ml of 25% aqueous ammonia was added to the reaction mixture. The mixture was filtered and extracted twice with CH2Cl2. The combined organic layers were washed with water, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silicagel (EtOAc, heptane) to yield 2.64 g of the pure title compound as an oil. LCMS: tR=0.55 min, M+H=196 (method K).

reactant | copper(I)cyanide | 74.7 mmol, 6.69 g | [Cu]C#N
reactant | tert-butylmagnesium chloride | 1M | C(C)(C)(C)[Mg]Cl
reactant | 2-bromo-5-methoxymethoxy-pyridine | 18.67 mmol, 4.07 g | BrC1=NC=C(C=C1)OCOC | C7H8BrNO2
reactant | ammonia | 30 ml | N | H3N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-tert-Butyl-5-methoxymethoxy-pyridine | 2.64 g | C(C)(C)(C)C1=NC=C(C=C1)OCOC | C11H17NO2
